US07674907B2
A 250-ml round bottom flask was charged with 1-benzyl-4-benzyloxy-3-iodo-2-pyridone (6.00 g, 14.40 mmol), dichloro[1,1-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (1.18 g, 1.44 mmol), DMF (60 mL), Hunig's base (3 mL, 17.30 mmol), triethylsilyl phenylacetylene (9.34 g, 43.10 mmol). The system was evacuated and purged with N2 three times, and the reaction was stirred at 110° C. for 12 hrs. The reaction mixture was diluted with EtOAc and washed with water. The organic layer was dried over Na2SO4 and the solvent was removed. The residue was purified by silica gel column chromatography, eluting with 50/50/1, EtOAc/Hexane/MeOH, to give 7-benzyl-3-phenyl-2-(triethylsily)furo[2,3-b]pyridine-4(7H)-one as a solid. MS (MH+) 416.0; Calculated 415 for C26H29NO2Si.

reactant | 1-benzyl-4-benzyloxy-3-iodo-2-pyridone | 14.40 mmol, 6.00 g | C(C1=CC=CC=C1)N1C(C(=C(C=C1)OCC1=CC=CC=C1)I)=O | C19H16INO2
reactant | Hunig's base | 17.30 mmol, 3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | triethylsilyl phenylacetylene | 43.10 mmol, 9.34 g | C(C)[Si](CC)(CC)C#CC1=CC=CC=C1 | C14H20Si
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 7-benzyl-3-phenyl-2-(triethylsily)furo[2,3-b]pyridine-4(7H)-one | C(C1=CC=CC=C1)N1C2=C(C(C=C1)=O)C(=C(O2)[Si](CC)(CC)CC)C2=CC=CC=C2 | C26H29NO2Si
